US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 4-(1-pyrazolyl)benzoyl chloride (183 mg, 0.88 mmol). The final trituration (diethyl ether/hexane) and filtration gave 10 mg (7.7%) of 18-(4-[1-pyrazolyl]benzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 99.9% pure (HPLC), MS m/z 737 (M−H)−, HRMS: calcd. 739.3125 and found 739.3109 (M+H)+, mp 167-169° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 4-(1-pyrazolyl)benzoyl chloride | 0.88 mmol, 183 mg | N1(N=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C10H7ClN2O
product | 18-(4-[1-pyrazolyl]benzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 10 mg, 7.7% | N1(N=CC=C1)C1=CC=C(C(=O)OC2CN3C(C(CCCCCC=CC4CC4(NC(C3C2)=O)C(=O)NS(=O)(=O)C2CC2)NC(=O)OC(C)(C)C)=O)C=C1 | C36H46N6O9S
